US04550169
2-Hydrazino-α-methyl-2-imidazoline-1-ethanol, hydroiodide
A solution of 30.2 g of α-methyl-2-(methylthio)-2-imidazoline-1-ethanol, hydroiodide, 5.2 ml of hydrazine hydrate and 200 ml of 2-propanol was refluxed for 4 hours, clarified and cooled at -10° C. The solid was collected, washed with 100 ml of cold 2-propanol, then 200 ml of ether and dried at 60° C. in vacuo, giving 26.0 g of the desired intermediate, mp 140°-142° C.

reactant | α-methyl-2-(methylthio)-2-imidazoline-1-ethanol, hydroiodide | 30.2 g | I.CC(CN1C(=NCC1)SC)O
reactant | hydrazine hydrate | 5.2 ml | O.NN
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 2-Hydrazino-α-methyl-2-imidazoline-1-ethanol, hydroiodide | 26.0 g | I.N(N)C=1N(CCN1)CC(O)C | InChI=1S/C6H14N4O.HI/c1-5(11)4-10-3-2-8-6(10)9-7;/h5,11H,2-4,7H2,1H3,(H,8,9);1H
